US07985753B2
2-(2,3-Dihydro-benzo[1,4]dioxin-5-yl)-ethylamine
In close analogy to the procedure described above, 5-(2-Nitro-vinyl)-2,3-dihydro-benzo[1,4]dioxine is reacted with lithium aluminium hydride to provide the title compound.

reactant | 5-(2-Nitro-vinyl)-2,3-dihydro-benzo[1,4]dioxine | [N+](=O)([O-])C=CC1=CC=CC=2OCCOC21 | C10H9NO4
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(2,3-Dihydro-benzo[1,4]dioxin-5-yl)-ethylamine | O1CCOC2=C1C=CC=C2CCN | C10H13NO2
